US06608059B1
d) 5-(2,6-Dichlorobenzyloxy)-1-[3-(1H-tetrazol-5-yl)propyl]-1H-indole-2-carbaldehyde-O-methyl Oxime
To a solution of 4-[5-(2,6-dichlorobenzyloxy)-2-(methoxyiminomethyl)indol-1-yl]butyronitrile (0.07 g, 0.17 mmol) in toluene (3 mL) was added azidotrimethylsilane (0.067 mL, 0.55 mmol) and dibutyltin oxide (0.014 g, 0.055 mmol). The reaction was refluxed for 16 h. The solvent was removed under reduced pressure and the crude product was purified by HPLC to yield a yellow foaming solid (0.045 g, 58%). MS(ES) m/e 459.0 [M+H]+.

reactant | 4-[5-(2,6-dichlorobenzyloxy)-2-(methoxyiminomethyl)indol-1-yl]butyronitrile | 0.17 mmol, 0.07 g | ClC1=C(COC=2C=C3C=C(N(C3=CC2)CCCC#N)C=NOC)C(=CC=C1)Cl | C21H19Cl2N3O2
reactant | azidotrimethylsilane | 0.55 mmol, 0.067 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 0.055 mmol, 0.014 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2,6-Dichlorobenzyloxy)-1-[3-(1H-tetrazol-5-yl)propyl]-1H-indole-2-carbaldehyde-O-methyl Oxime | 0.045 g, 58% | CON=CC=1N(C2=CC=C(C=C2C1)OCC1=C(C=CC=C1Cl)Cl)CCCC1=NN=NN1 | C21H20Cl2N6O2
